US08471027B2
A solution of 2-phenylamino-6-trifluoromethyl-nicotinic acid (6.2 g, 22.0 mmol), N,O-dimethylhydroxylamine hydrochloride (2.79 g, 28.6 mmol) and 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (13.3 g, 35.2 mmol) in N,N-dimethylformamide (120 mL) was treated with N,N-diisopropylethylamine (8.88 g, 12 mL, 68.7 mmol). The reaction mixture was stirred at 25° C. for 4 h. At this time, the reaction was diluted with methylene chloride (400 mL), washed with a saturated aqueous ammonium chloride solution (1×300 mL), a saturated aqueous sodium bicarbonate solution (1×300 mL), and a saturated aqueous sodium chloride solution (1×200 mL), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Flash chromatography (250 g silica column, 10-35% ethyl acetate/hexanes) afforded N-methoxy-N-methyl-2-phenylamino-6-trifluoromethyl-nicotinamide (6.86 g, 96%) as a brown oil which upon trituration with ether became a brown solid.

reactant | 2-phenylamino-6-trifluoromethyl-nicotinic acid | 22.0 mmol, 6.2 g | C1(=CC=CC=C1)NC1=C(C(=O)O)C=CC(=N1)C(F)(F)F | C13H9F3N2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 28.6 mmol, 2.79 g | Cl.CNOC
reactant | 2-(1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 35.2 mmol, 13.3 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 68.7 mmol, 12 mL, 8.88 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 400 mL | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methyl-2-phenylamino-6-trifluoromethyl-nicotinamide | 6.86 g, 96% | CON(C(C1=C(N=C(C=C1)C(F)(F)F)NC1=CC=CC=C1)=O)C | C15H14F3N3O2
